US04568775
Into a 300 ml vessel equipped with a stirrer and a reflux condenser, 200 g of THF with a water content of 2.0 wt. % was charged and 100 g of an anhydrous 12-tungstosilicic acid which had been prepared by heating in an electric furnace at a temperature of 250° C. for 3 hours was added thereto (the molar ratio of water existing in the catalyst phase to the heteropoly-acid corresponds to 5.8). After stirring was continued at 50° C. for 4 hours, according to the same procedure as described in Example 1, a PTMG with a number-average molecular weight of 1100 was obtained at a yield of 8%.

reactant | THF | 200 g | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | PTMG | yield of 8% | CCCCO[C@@H](CC)CO | C8H18O2
